US07449197B2
Therefore, the invention provides a liposome formulation of compound BBR 2778 consisting of liposomes comprising phosphatidylcholine, cholesterol and BBR 2778, in a cholesterol/phospholipide 1:2 to 1:7 weight ratio and in a BBR 2778/phospholipide 1:4 to 1:25 weight ratio. Phosphatidylcholine preferably includes residues of fatty acids selected from palmitic, oleic, linoleic, gamma-linoleic, linolenic and stearic acids, and the liposome is formed by a mixture of hydrogenated and non-hydrogenated phosphatidylcholines, having the fatty acids composition indicated, in a 1:2 to 2:1 ratio, more preferably said mixture consists of hydrogenated phosphatidylcholine having melting point of 120° C. and crystallization point of 90° C., and non-hydrogenated phosphatidylcholine having a thermogram as reported in FIG. 5. The hydrogenated and non-hydrogenated phosphatidylcholines, having the above-indicated composition, are commercially available respectively under the name PHOSPHOLIPON® 90 H and PHOSPHOLIPON® 90.

reactant | cholesterol | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)CC[C@]4(C)[C@H]3CC[C@]12C | C27H46O
reactant | BBR 2778 | C1=CC(=C2C(=C1NCCN)C(=O)C3=C(C2=O)C=NC=C3)NCCN | C17H19N5O2
product | linoleic | CCCCC/C=C\C/C=C\CCCCCCCC(=O)O | C18H32O2
